US06908945B2
To a mixture of 25 ml of tetrahydrofuran and 150 ml of 1,4-dioxane, 15.4 g of 4-methoxymethy-2,3,5,6-tetrafluorobenzyl 3-(2-methyl-1-propenyl)-2,2-dimethylcyclopropanecarboxylate (prepared by the method described above) were dissolved and 1.0 g of osmium tetraoxide was added thereto at room temperature. Further, 50 ml of water containing 24.0 g of sodium metaperiodate were added thereto and refluxed for 2 hours under heating. After that, the reaction mixture was poured into about 200 ml of water and extracted with 200 ml of ethyl acetate twice. The combined organic layer was washed with 1% aqueous sodium thiosulfate solution, saturated aqueous sodium hydrogencarbonate solution and saturated brine, subsequently, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography to give 10.4 g of 4-methoxymethy-2,3,5,6-tetrafluorobenzyl 3-formyl-2,2-dimethylcyclopropanecarboxylate.

reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | 1,4-dioxane | 150 ml | O1CCOCC1 | C4H8O2
reactant | 4-methoxymethy-2,3,5,6-tetrafluorobenzyl 3-(2-methyl-1-propenyl)-2,2-dimethylcyclopropanecarboxylate | 15.4 g | CC(=CC1C(C1C(=O)OCC1=C(C(=C(C(=C1F)F)COC)F)F)(C)C)C | C19H22F4O3
reactant | sodium metaperiodate | I(=O)(=O)(=O)[O-].[Na+]
catalyst | osmium tetraoxide | 1.0 g | [Os](=O)(=O)(=O)=O
solvent | water | about 200 ml | O | H2O
solvent | water | 50 ml, 24.0 g | O | H2O
product | 4-methoxymethy-2,3,5,6-tetrafluorobenzyl 3-formyl-2,2-dimethylcyclopropanecarboxylate | 10.4 g | C(=O)C1C(C1C(=O)OCC1=C(C(=C(C(=C1F)F)COC)F)F)(C)C | C16H16F4O4
